* source DAQANALOGIC
V_V4         N01178 GND 15Vdc
V_V1         N03079 GND 5Vdc
V_V3         N01344 GND -15Vdc
R_R1         N03079 N01204  100k TC=0,0 
X_U2B         N01204 N01300 N01178 N01344 N01286 LM358
R_R2         N01204 GND  50k TC=0,0 
R_R5         GND N01300  47k TC=0,0 
R_R3         VAS N01204  200k TC=0,0 
R_R4         N01300 N01286  100k TC=0,0 
R_R7         N02575 VO  50k TC=0,0 
V_V8         N02583 GND -15Vdc
V_V7         N02515 GND 15Vdc
X_U3B         N01286 N02575 N02515 N02583 VO LM358
R_R6         GND N02575  10k TC=0,0 
V_V10         N04221 GND 15Vdc
X_U4A         GND N04760 N04221 N04177 VAS LM358
V_V9         N04177 GND -15Vdc
V_V2         N04203 GND 5Vdc
R_R8         N04203 N04760  10k TC=0,0 
R_R9         N04760 VAS  10k TC=0,0 
